US07902191B2
6-(4-Methyl-piperazin-1-yl)-5,6,7,8-tetrahydro-naphthalene-2-carboxylic acid (2-pyrrolidin-1-yl-ethyl)-amide is prepared from 6-(4-methyl-piperazin-1-yl)-5,6,7,8-tetrahydro-naphthalene-2-carboxylic acid dihydrochloride and N-(2-aminoethyl)pyrrolidine in a manner substantially analogous to Procedure B (See herein Example 8). Observed mass 371 (M++1).

reactant | 6-(4-methyl-piperazin-1-yl)-5,6,7,8-tetrahydro-naphthalene-2-carboxylic acid dihydrochloride | Cl.Cl.CN1CCN(CC1)C1CC=2C=CC(=CC2CC1)C(=O)O
reactant | N-(2-aminoethyl)pyrrolidine | NCCN1CCCC1 | C6H14N2
product | 6-(4-Methyl-piperazin-1-yl)-5,6,7,8-tetrahydro-naphthalene-2-carboxylic acid (2-pyrrolidin-1-yl-ethyl)-amide | N1(CCCC1)CCNC(=O)C1=CC=2CCC(CC2C=C1)N1CCN(CC1)C | C22H34N4O
